US09402838B2
Synthesis of methyl 4-[(1S)-1-[[(2R)-1-(2-(4-fluorophenoxy)ethyl)piperidine-2-carbonyl]amino]ethyl]benzoate
Stir a mixture of methyl 4-[(1S)-1-[[(2R)-piperidine-2-carbonyl]amino]ethyl]benzoate hydrochloride (650 mg, 1.99 mmol) and 2-(4-fluorophenoxy)acetaldehyde (337 mg, 2.19 mmol) in DCE (9.9 mL) at room temperature for 30 min. Add acetic acid (0.113 mL, 1.99 mmol) and sodium triacetoxyborohydride (590 mg, 2.78 mmol) and stir at room temperature for three days. Quench the reaction with saturated aqueous NaHCO3 (25 mL) and extract the aqueous layer with EtOAc (2×25 mL). Wash the combined organic layers with saturated aqueous NaCl (25 mL), then dry the organic phase over MgSO4, filter, and concentrate under reduced pressure. Subject the resulting oil to flash chromatography on silica gel, eluting with a gradient of 0% to 100% EtOAc/hexanes. Concentrate the fractions containing the desired product under reduced pressure to provide the title compound as a white solid (600 mg, 70% yield). Mass spectrum (m/z) 429 (M+H)+, 451 (M+Na)+.

reactant | methyl 4-[(1S)-1-[[(2R)-piperidine-2-carbonyl]amino]ethyl]benzoate hydrochloride | 1.99 mmol, 650 mg | Cl.N1[C@H](CCCC1)C(=O)N[C@@H](C)C1=CC=C(C(=O)OC)C=C1
reactant | 2-(4-fluorophenoxy)acetaldehyde | 2.19 mmol, 337 mg | FC1=CC=C(OCC=O)C=C1 | C8H7FO2
reactant | acetic acid | 1.99 mmol, 0.113 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 2.78 mmol, 590 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | DCE | 9.9 mL | ClCCCl | C2H4Cl2
product | methyl 4-[(1S)-1-[[(2R)-1-(2-(4-fluorophenoxy)ethyl)piperidine-2-carbonyl]amino]ethyl]benzoate | 600 mg, 70% yield | FC1=CC=C(OCCN2[C@H](CCCC2)C(=O)N[C@@H](C)C2=CC=C(C(=O)OC)C=C2)C=C1 | C24H29FN2O4
